US06630489B1
4-(4-chloro-2-fluorophenoxy)-7-methoxy-N-(3-morpholinopropyl)quinoline-6-carboxamide
N-Hydroxybenzotriazole (0.104 g), triethylamine (0.095 ml), N-(3-aminopropyl)morpholine (0.11 ml) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.142 g) were added in turn to a stirred mixture of 4-(4-chloro-2-fluorophenoxy)-7-methoxyquinoline-6-carboxylic acid (0.2 g) in DMF (5 ml). The reaction mixture was stirred at ambient temperature for 16 hours. Water (20 ml) was added and the resultant suspension was transferred onto a C18 reversed-phase silica gel chromatography column and eluted with a decreasingly polar solvent gradient of water and acetonitrile. There was thus obtained the title compound (0.175 g); NMR Spectrum: (DMSOd6) 1.72 (m, 2H), 2.38 (m, 6H), 3.35 (m, 2H), 3.56 (m, 4H), 4.01 (s, 3H), 6.56 (d, 1H), 7.42-7.59 (m, 3H), 7.76 (m, 1H), 8.38 (m, 1H), 8.51 (s, 1H), 8.68 (d, 1H); Mass Spectrum: M+H+ 474 & 476.

reactant | N-Hydroxybenzotriazole | 0.104 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-aminopropyl)morpholine | 0.11 ml | NCCCN1CCOCC1 | C7H16N2O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.142 g | Cl.CN(CCCN=C=NCC)C
reactant | 4-(4-chloro-2-fluorophenoxy)-7-methoxyquinoline-6-carboxylic acid | 0.2 g | ClC1=CC(=C(OC2=CC=NC3=CC(=C(C=C23)C(=O)O)OC)C=C1)F | C17H11ClFNO4
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | Water | 20 ml | O | H2O
solvent | triethylamine | 0.095 ml | C(C)N(CC)CC | C6H15N
product | 4-(4-chloro-2-fluorophenoxy)-7-methoxy-N-(3-morpholinopropyl)quinoline-6-carboxamide | 0.175 g | ClC1=CC(=C(OC2=CC=NC3=CC(=C(C=C23)C(=O)NCCCN2CCOCC2)OC)C=C1)F | C24H25ClFN3O4
